US08426411B2
To a solution of ethyl 2-((1R,3R,4S)-3-ethyl-4-(hydroxymethyl)cyclopentyl)acetate (0.140 g, 0.653 mmol) in MeCN (2 mL), water (4 mL) and EtOAc (2 mL) was added sodium periodate (0.349 g, 1.633 mmol) followed by ruthenium(III) chloride hydrate (0.0015 g, 0.0065 mmol). After about 2 h, the reaction mixture was diluted with EtOAc (20 mL) and water (10 mL). The organic layer was separated and extracted with aqueous NaOH (1 N, 10 mL). The pH of the aqueous layer was adjusted to about 1 with concd HCl and extracted with EtOAc (20 mL). The organic layer was dried over anhydrous MgSO4, filtered, and concd in vacuo to provide (1S,2R,4R)-4-(2-ethoxy-2-oxoethyl)-2-ethylcyclopentanecarboxylic acid (0.150 g, 101%) as an oil which was used without further purification. 1H NMR (600 MHz, CDCl3) δ 10.68 (bs, 1H), 4.13 (q, J=7.1 hz, 2H), 2.99-2.95 (m, 1H), 2.76-2.64 (m, 1H), 2.31 (d, J=7.6 Hz, 2H), 2.24 (ddd, J=13.5, 8.7, 4.8 Hz, 1H), 2.18-2.11 (m, 1H), 1.81 (dt, J=13.0, 8.4 Hz, 1H), 1.55-1.45 (m, 3H), 1.31-1.27 (m, 1H), 1.25 (t, J=7.0 Hz, 3H), (t, J=7.4 Hz, 3H).

reactant | ethyl 2-((1R,3R,4S)-3-ethyl-4-(hydroxymethyl)cyclopentyl)acetate | 0.653 mmol, 0.140 g | C(C)[C@@H]1C[C@H](C[C@@H]1CO)CC(=O)OCC | C12H22O3
reactant | sodium periodate | 1.633 mmol, 0.349 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | MeCN | 2 mL | CC#N | C2H3N
solvent | water | 4 mL | O | H2O
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | ruthenium(III) chloride hydrate | 0.0065 mmol, 0.0015 g | O.[Ru](Cl)(Cl)Cl
product | (1S,2R,4R)-4-(2-ethoxy-2-oxoethyl)-2-ethylcyclopentanecarboxylic acid | 0.150 g, 101% | C(C)OC(C[C@@H]1C[C@H]([C@H](C1)C(=O)O)CC)=O | C12H20O4
